US04522828
A solution of 3,4-dichlorobenzyl cyanide (25 g) and 1,3-dibromopropane (15 ml) in dry dimethyl sulphoxide (150 ml) was added dropwise under nitrogen to a stirred mixture of sodium hydride (7.5 g) dispersed in mineral oil (7.5 g) and dimethylsulphoxide (200 ml) at a temperature in the range 30° to 35° C. The mixture was stirred at room temperature for two hours and propan-2-ol (8 ml) and then water (110 ml) were added dropwise. The mixture was filtered through a diatomaceous earth sold under the Registered Trade Mark CELITE and the solid residue washed with ether. The ether layer was separated, washed with water, dried and evaporated. 1-(3,4-Dichlorophenyl)-1-cyclobutanecarbonitrile (b.p. 108°-120° C. at 0.15 Hg) was isolated by distillation. This method is a modification of that described by Butler and Pollatz (J. Org. Chem., Vol. 36, No. 9, 1971, p.1308).

reactant | 3,4-dichlorobenzyl cyanide | 25 g | ClC=1C=C(CC#N)C=CC1Cl | C8H5Cl2N
reactant | 1,3-dibromopropane | 15 ml | BrCCCBr | C3H6Br2
reactant | sodium hydride | 7.5 g | [H-].[Na+]
reactant | propan-2-ol | 8 ml | CC(C)O | C3H8O
solvent | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 200 ml | CS(=O)C | C2H6OS
solvent | water | 110 ml | O | H2O
product | 1-(3,4-Dichlorophenyl)-1-cyclobutanecarbonitrile | ClC=1C=C(C=CC1Cl)C1(CCC1)C#N | C11H9Cl2N
